US06358992B1
To a solution of methyl 3-isobutyryl-2-propylindole-6-carboxylate (201 mg) in carbon tetrachloride (7 ml) was added N-bromosuccinimide (187 mg) and 2,2′-azobis (4-methoxy-2,4-dimethylvaleronitrile; (20 mg) and refluxed for 30 minutes. The resulting mixture was filtered and the filtrate was evaporated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (2:1) to give methyl 2-(1-bromopropyl)-3-isobutyrylindole-6-carboxylate (179 mg).

reactant | methyl 3-isobutyryl-2-propylindole-6-carboxylate | 201 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCC | C17H21NO3
reactant | N-bromosuccinimide | 187 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-methoxy-2,4-dimethylvaleronitrile | COC(CC(C#N)C)(C)C | C8H15NO
solvent | carbon tetrachloride | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-(1-bromopropyl)-3-isobutyrylindole-6-carboxylate | 179 mg | BrC(CC)C=1NC2=CC(=CC=C2C1C(C(C)C)=O)C(=O)OC | C17H20BrNO3
